US06603012B2
37.1. Preparation of (RS)-N-methoxy-N-methyl-2-(4,4-dimethyl-thiochroman-6-yl)-heptanoic Amide
0.44 g of (RS)-2-(4,4-dimethyl-thiochroman-6-yl)-heptanoic acid was dissolved in a mixture of 2.1 ml DMF/4.2 ml of methylene chloride, and 1.35 g of MeO(Me)NH.HCl was added followed by 2.47 ml of diisopropylethylamine and 0.53 g of 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride. The reaction mixture was stirred at room temperature for 4 hours, then the volatiles were removed in vacuo. The residue was taken up in 100 ml ethyl acetate and washed with one portion of 50 ml of water, one portion of 50 ml of 1N hydrochloric acid, one portion of 50 ml of saturated aqueous sodium bicarbonate solution and one portion of 50 ml of saturated aqueous sodium chloride solution. The organic phase was dried over MgSO4 and concentrated in vacuo, giving 0.49 g of a yellow oil. The crude product was used without purification. 1H NMR (CDCl3): 7.27 (d, J=1.8 Hz, 1H), 7.02 (d, J=8.1 Hz, 1H), 6.95 (dd, J=8.1, 1.8 Hz, 1H), 3.48 (s, 3H), 3.35-3.20 (m, 1H), 3.15 (s, 3H), 3.05-2.95 (m, 2H), 2.00-1.90 (m, 2H), 1.75-1.55 (m, 2H), 1.32 (s, 3H), 1.26 (s, 3H), 1.35-1.20 (m, 6H), 0.85 (t, J=6.9 Hz, 3H).

reactant | (RS)-2-(4,4-dimethyl-thiochroman-6-yl)-heptanoic acid | 0.44 g | CC1(CCSC2=CC=C(C=C12)C(C(=O)O)CCCCC)C | C18H26O2S
reactant | HCl | Cl | ClH
reactant | diisopropylethylamine | 2.47 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 0.53 g | Cl.CN(CCCN=C=NCC)C
reactant | DMF | 2.1 ml | CN(C)C=O | C3H7NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | (RS)-N-methoxy-N-methyl-2-(4,4-dimethyl-thiochroman-6-yl)-heptanoic Amide | 0.49 g | CON(C(C(CCCCC)C=1C=C2C(CCSC2=CC1)(C)C)=O)C | C20H31NO2S
